US08034827B2
c) 4-[(2-{2-[5-(3,4-Dichloro-benzenesulfonyl)-5,6-dihydro-phenanthridin-6-yl]-acetylamino}-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound was prepared from {2-[5-(3,4-dichloro-benzenesulfonyl)-5,6-dihydro-phenanthridin-6-yl]-acetylamino}-acetic acid and 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester according to the method described in Example 1e.

reactant | {2-[5-(3,4-dichloro-benzenesulfonyl)-5,6-dihydro-phenanthridin-6-yl]-acetylamino}-acetic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1CC(=O)NCC(=O)O | C23H18Cl2N2O5S
reactant | 4-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
product | 4-[(2-{2-[5-(3,4-Dichloro-benzenesulfonyl)-5,6-dihydro-phenanthridin-6-yl]-acetylamino}-acetylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(CNC(CC1N(C=2C=CC=CC2C2=CC=CC=C12)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)=O)=O | C34H38Cl2N4O6S
